US04127405
N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-aminocarbonyl]-2-thiophensulfonamide
To a suspension of 14.0 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine in 300 ml. of acetonitrile was added, dropwise, 19 g of thiophene-2-sulfonyl isocyanate. After stirring for six hours, the mixture was filtered to yield the desired solid product melting at 182°-184° C.

reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 14.0 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
reactant | thiophene-2-sulfonyl isocyanate | 19 g | S1C(=CC=C1)S(=O)(=O)N=C=O | C5H3NO3S2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-aminocarbonyl]-2-thiophensulfonamide | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C=1SC=CC1 | C10H11N5O4S2
